US07655670B2
4-(2-Bromo-3-methyl-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester
Piperidine-1,4-dicarboxylic acid mono-tert-butyl ester (5.0 g, 21.80 mmol) was dissolved in dry methylene chloride (32 mL) and dry pyridine (4.50 mL). To the reaction mixture was then added thionyl chloride (3.11 g, 26.17 mmol) under nitrogen atmosphere and the reaction mixture was stirred at room temperature for 30 minutes. To the reaction mixture was then added successively, under nitrogen atmosphere, 2-bromo-3-methyl-phenylamine (as described in J. Org. Chem. 1998, 53, 1170-1176) (4.46 g, 23.99 mmol), dry triethylamine (7.72 g, 76.33 mmol), dry methylene chloride (40 mL), 4-(dimethylamino)pyridine (0.26 g, 2.18 mmol) and the reaction mixture was stirred at room temperature for 24 hours. The reaction mixture was then partitioned with aqueous 2N HCl and tert-butyl methyl ether. The organic layer was washed with aqueous 2N HCl, aqueous NaHCO3, brine, dried with Na2SO4, filtered and the solvent evaporated in vacuo to yield a crude oil. The crude oil was purified via flash chromatography (30% ethyl acetate/hexanes) to yield the title compound as a solid.

reactant | Piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 21.80 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | thionyl chloride | 26.17 mmol, 3.11 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-bromo-3-methyl-phenylamine | 23.99 mmol, 4.46 g | BrC1=C(C=CC=C1C)N | C7H8BrN
reactant | triethylamine | 76.33 mmol, 7.72 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 32 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 2.18 mmol, 0.26 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 4.50 mL | N1=CC=CC=C1 | C5H5N
product | 4-(2-Bromo-3-methyl-phenylcarbamoyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1=C(C(=CC=C1)C)Br)=O | C18H25BrN2O3
